Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rectal bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of CAD, htn, HLD and hemorrhoids presents with 
rectal bleeding. He reports that 3.5 weeks ago he had a 
screening colonoscopy at the ___ and had ___ polyps removed 
and subsequently had mild rectal bleeding with blood on toilet 
paper for 2 weeks. The bleeding began to increase last week and 
now is continuous. He had a BM 3 days ago. No new abdominal 
pain. Ten point ROS otherwise negative.

In the ED, triage vital signs were: 98.0 88 163/90 18  100% RA. 
Pt underwent CTA that showed "a subtle 1 cm blush of contrast on 
the right in the rectum on arterial phase with pooling on venous 
phase is concerning with a distal rectal bleed, possibly from an 
internal hemorrhoid. No other focus of gastrointestinal bleed is 
identified. No evidence of colitis or diverticulitis." 

ROS: As per HPI. 10 pt ROS otherwise negative.

 
Past Medical History:
h/o hemorrhoids
Obtained from ___ records via Physician ___:
# Coronary artery disease - extensive, non-obstructive disease 
per coronary CT (___) and coronary angio in ___
# HTN
# HL
# Depression
# Osteomyelitis
# Glaucoma
# Corneal ulcer
# Blind in R eye d/t htn
 
Social History:
___
Family History:
Father died at ___ of prostate ca.

 
Physical Exam:
VS: 98.0 PO 148 / 87 76 20 97 RA 
Gen: appears comfortable, pleasant
HEENT: EOMI PERRLA, MMM
CV: RRR no m/g/r
PULM: CTAB no w/r/r
Abd: soft, NT/ND
Extrem: Warm, no edema
GU: No foley
Skin: no rashes
Neuro: A+Ox3, speech fluent

 
Pertinent Results:
___ 10:30AM BLOOD WBC-7.9 RBC-4.49* Hgb-13.6* Hct-40.6 
MCV-90 MCH-30.3 MCHC-33.5 RDW-12.9 RDWSD-42.2 Plt ___
___ 10:30AM BLOOD Neuts-60.8 ___ Monos-9.9 Eos-0.5* 
Baso-0.4 Im ___ AbsNeut-4.77 AbsLymp-2.19 AbsMono-0.78 
AbsEos-0.04 AbsBaso-0.03
___ 10:30AM BLOOD ___ PTT-34.5 ___
___ 10:30AM BLOOD Glucose-91 UreaN-16 Creat-0.8 Na-138 
K-4.7 Cl-99 HCO3-26 AnGap-18
___ 10:30AM BLOOD ALT-17 AST-16 AlkPhos-65 TotBili-0.3
___ 10:30AM BLOOD Albumin-4.4

CTA Abd Pel
 
IMPRESSION: 
  
  
1. A subtle 1 cm blush of contrast on the right in the rectum on 
arterial 
phase with pooling on venous phase is concerning with a distal 
rectal bleed, 
possibly from an internal hemorrhoid. No other focus of 
gastrointestinal 
bleed is identified. No evidence of colitis or diverticulitis. 

FROM ___:
        ___ CARDIAC CATHETERIZATION LABORATORY FINAL REPORT

     PATIENT NAME: ___ ___
     AGE: ___
     CASE DATE/TIME: ___ 8:52 AM
     DIAGNOSTIC ATTENDING MD: ___, M.D.
     DIAGNOSTIC FELLOW MD: ___, M.D.
     INTERVENTIONAL FELLOW MD: ___, M.D.
     
     DIAGNOSTIC SUMMARY
      LM - there is no LM given separate ostia of LAD and RCA
      LAD - 30% ostial stenosis / 40% mid-vessel disease / D1 
has 30% ostial 
      stenosis / D2 is patent
      LCX - anomalous origin from RCA / small / patent
      RCA - dominant / 20% proximal and mid-vessel disease / PDA 
and PLV are 
      patent

     PLAN AND RECOMMENDATIONS: - Non severe CAD as above
      - Findings reviewed with Dr ___
      - Pull and compress RFA access

     PROCEDURES 
     Coronary Angiogram Only including S&I

     DIAGNOSES 
     Abnormal result of cardiovascular function study, 
unspecified
     Angina pectoris, unspecified
     INDICATION(S)/BACKGROUND: DIFFUSE CORONARY ARTERY DISEASE / 
Abnormal 
      CTA / CP

     DIAGNOSTIC TECHNIQUE: Under Lidocaine 2% local anesthesia a 
___ 
      introducer was placed in the right femoral artery using 
modified 
      Seldinger technique. Selective coronary arteriography was 
then 
      performed using a ___ ___ left number 4  catheter to 
engage the 
      left coronary artery (LAD) and a ___ ___ right number 
4  catheter 
      to engage the right coronary artery (anomalous LCx off RCA 
or separate 
      ostium off right coronary cusp). Right and left coronary 
arteriography 
      were performed in multiple views by hand injections of 
IOPAMIDOL 76 %. 
      Following the procedure, the sheath was  removed.  

     HEMODYNAMICS 

     STATE: Rest

     CORONARY ANATOMY FINDINGS 
      Dominance: Right
      Left Main: There is no Left Main artery. The LCx has a 
separate ostium 
      off the Right Coronary cusp/RCA.
      LAD: The left anterior descending artery is large vessel, 
which 
      reaches the apex of the heart and gives origin to two 
moderate sized 
      diagonal arteries.  The Proximal LAD has a focal 30 % 
stenosis in its 
      ostium.  The Mid LAD has a focal 40 % stenosis in its mid 
third.  The 
      ___ Diagonal has a focal 30 % stenosis in its ostium.
      Left Circumflex: The left circumflex coronary artery is 
anomalous and 
      arises from the Right Coronary Cusp/RCA. It is a small 
vessel, which  
      gives origin to two obtuse marginal arteries. The  artery 
contains only 
      minimal irregularities.  
      RCA: The right coronary artery is a large vessel.  The 
Proximal RCA 
      has a focal 20 % stenosis in its mid third.  The Mid RCA  
has a focal 
      20 % stenosis in its mid third.The right coronary artery 
is a large 
      vessel. The artery contains only minimal irregularities.  
 
Brief Hospital Course:
A/P: ___ with history of hemorrhoidal bleeding presents with 
rectal bleeding concerning for bleeding internal hemorroid.

# Gastrointestinal bleeding, rectal bleed, hemorrhoids: CTA 
suggests internal hemorrhoid bleeding. Also possible 
diverticular bleed versus slow post-polypectomy bleed. 
Gastroenterology was consulted in ED and recommended colorectal 
consult for possible banding. Colorectal surgery recommended 
outpatient follow up for possible banding. Patient's bleeding 
slowly improved and his hematocrit stabilized. He was discharged 
home with plans to call colorectal surgery to arrange an 
outpatient appointment.

# CAD, htn, HLD: stable. Recent coronary angiogram ___ at 
___ showed diffuse disease, no stenting. Continued ASA, statin, 
beta-blocker, lisinopril, & imdur BID 

# Glaucoma: Continued timolol drops

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 30 mg PO BID 
2. Lisinopril 10 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Timolol Maleate 0.5% 1 DROP LEFT EYE BID 
5. Omeprazole 40 mg PO DAILY 
6. Simvastatin 40 mg PO QPM 
7. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastrointestinal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with rectal bleeding. This was likely from 
an internal hemorrhoid. You were seen by our colorectal 
surgeons. They would like to see you again in the clinic to 
discuss banding of this hemorrhoid.
 
Followup Instructions:
___